US08039450B2
To a 20 mL scintillation vial containing 5-(4-amino-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol (68 mg, 0.28 mmol, 1.0 eq.) in DCM (3.0 mL) was added Et3N (47 μL, 0.33 mmol, 1.2 eq.), followed by acetyl chloride (22 μL, 0.31 mmol, 1.1 eq.). The mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give N-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-phenyl]-acetamide as a white solid. LCMS (m/z) 284 (M+H); 1H NMR (DMSO-d6) δ: 10.17 (s, 1H), 7.68 (d, J=8.1 Hz, 1H), 7.58-7.63 (m, 2H), 6.94-6.99 (m, 2H), 6.88 (dd, J=8.0, 2.1 Hz, 1H), 6.84 (d, J=1.5 Hz, 1H), 4.85 (s, 2H), 3.12 (s, 1H), 2.00 (s, 3H).

reactant | 5-(4-amino-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | 0.28 mmol, 68 mg, 1.0 eq. | NC1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C13H12BNO3
reactant | Et3N | 0.33 mmol, 47 μL, 1.2 eq. | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.31 mmol, 22 μL, 1.1 eq. | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-phenyl]-acetamide | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C=C2)NC(C)=O | C15H14BNO4
